US06525068B1
(1S,2S)-2-(4-Methoxyphenoxy)-1,2,-dihydro-naphthalen-1-ol (12):
To a flame dried round-bottomed flask, [Rh(COD)Cl]2 (1.7 mg, 0.0035 mmol), (S)-(R)-PPF-PtBu2 (3.8 mg, 0.0069 mmol) and 1 (100 mg, 0.694 mmol) were added followed by addition of THF (2.5 mL) and 4-methoxyphenol (431 mg, 3.47 mmol). The mixture was heated at 80° C. for 6 hours, then poured into diethyl ether and extracted 3 times with 10% aqueous sodium hydroxide solution. The aqueous extracts were combined and back-extracted three times with diethyl ether. The combined ether extracts were washed with brine and dried with anhydrous sodium sulfate. The solvents were removed in vacuo, yielding a solid which was purified by flash chromatography on silica gel (10% ethyl acetate in hexanes) as a white crystalline solid 12 (159 mg, 85%). The ee was determined to be 95% by HPLC analysis on a CHIRALCEL OD column, λ=256 nm. Retention times in 4% isopropanol in hexanes were 22.1 min (major) and 25.9 min. Rf=0.33 on silica (20% ethyl acetate in hexanes); mp 91-92° C. (Et2O); [α]25D=+129° (c=9.9, CHCl3); IR (KBr, cm−1) 3349 (br), 3050 (w), 2822 (w), 1508 (s), 1233 (s), 1046 (m), 825 (m), 751 (m), 695 (w); 1H NMR (400 MHz, CDCl3): δ7.66-7.64 (1H, m), 7.30-7.27 (2H, m), 7.12-7.10 (1H, m), 6.91 (2H, ddd, J=2.3, 2.3, 9.1 Hz), 6.84 (2H, ddd, J=2.4, 2.4, 9.2 Hz), 6.49 (1H, dd, J=2.0, 9.9 Hz), 6.02 (1H, dd, J=2.4, 9.9 Hz), 5.17 (1H, dd, J=3.3, 10.1 Hz), 5.02 (1H, ddd, J=2.0, 2.0, 10.3 Hz), 3.77 (3H, s), 3.12 (1H, d, J=3.4 Hz). 13C NMR (400 MHz, CDCl3): δ154.3, 151.2, 135.5, 131.9, 128.7, 128.1, 127.9, 126.4, 126.3, 125.2, 117.2, 114.8, 80.0, 72.4, 55.7. HRMS calcd for (M+) (C17H14O2): 250.0994. Found: 250.1006.

reactant | THF | 2.5 mL | C1CCOC1 | C4H8O
reactant | 4-methoxyphenol | 3.47 mmol, 431 mg | COC1=CC=C(C=C1)O | C7H8O2
reactant | diethyl ether | C(C)OCC | C4H10O
product | (1S,2S)-2-(4-Methoxyphenoxy)-1,2,-dihydro-naphthalen-1-ol | COC1=CC=C(O[C@@H]2[C@H](C3=CC=CC=C3C=C2)O)C=C1 | C17H16O3
